US08039450B2
To a solution of 4-fluoro-benzaldehyde (5.4 mL, 50.0 mmol, 1.0 eq.), 4-bromo-3-hydroxymethyl-phenol (10.6 g, 50.0 mmol, 1.0 eq.) in DMF (140.0 mL) was added K2CO3 (8.3 g, 60.0 mmol, 1.2 eq.) under nitrogen atmosphere. The mixture was heated at 80° C. overnight. After cooling to room temperature, the mixture was poured into EtOAc (10 mL) and sat. H2O (100 mL). The layers were separated and the aqueous phase was extracted with EtOAc (3×100 mL). Combined organic extracts was washed with brine (100 mL), dried over MgSO4, filtered and the filtrate was concentrated under reduced pressure. The residue was applied to silica chromatography eluting with MeOH/DCM (0:100 to 10:90) to give 4-(4-bromo-3-hydroxymethyl-phenoxy)-benzaldehyde as a yellow oil. 1H NMR (CHLOROFORM-d) δ: 9.93 (s, 1H), 7.80-7.89 (m, 2H), 7.55 (d, J=8.6 Hz, 1H), 7.27 (d, J=3.1 Hz, 1H), 7.06 (d, J=8.7 Hz, 2H), 6.89 (dd, J=8.6, 2.9 Hz, 1H), 4.74 (s, 2H). Amount obtained, 15.2 g, 99% yield.

reactant | 4-fluoro-benzaldehyde | 50.0 mmol, 5.4 mL, 1.0 eq. | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | 4-bromo-3-hydroxymethyl-phenol | 50.0 mmol, 10.6 g, 1.0 eq. | BrC1=C(C=C(C=C1)O)CO | C7H7BrO2
reactant | K2CO3 | 60.0 mmol, 8.3 g, 1.2 eq. | C(=O)([O-])[O-].[K+].[K+]
reactant | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
solvent | DMF | 140.0 mL | CN(C)C=O | C3H7NO
solvent | H2O | 100 mL | O | H2O
product | 4-(4-bromo-3-hydroxymethyl-phenoxy)-benzaldehyde | 99% yield | BrC1=C(C=C(OC2=CC=C(C=O)C=C2)C=C1)CO | C14H11BrO3
